US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[2-(3-ethoxy-propylamino)-ethyl]-1H-imidazol-4-yl}-amide
Methanesulfonic acid 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-ethyl ester was reacted with 3-ethoxypropyl amine to provide the title compound: MS 446.2 m/z (M+1).

reactant | Methanesulfonic acid 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-ethyl ester | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)NC=1N=CN(C1)CCOS(=O)(=O)C)CCC | C19H24F2N4O5S
reactant | 3-ethoxypropyl amine | C(C)OCCCN | C5H13NO
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[2-(3-ethoxy-propylamino)-ethyl]-1H-imidazol-4-yl}-amide | C(C)OCCCNCCN1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H33F2N5O3
